Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:10].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]([H:12])[H:13],1.87264929904
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2]=[C:3]([C:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.58565254442
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6][O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[C:6]=[O:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13],-1.7168568440399998
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:9]([H:10])([H:11])[H:12],1.7494501393200002
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.6427722890200003
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9],2.12853969345
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:6],3.09579100418
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11]>>[H:11].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10],3.9957243178400006
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.371330042169999
[H:1][O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.59098803319
[H:1]/[C:2](=[C:3]\[C:6]([C:4][H:5])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([C:3]1=[C:4]([H:5])[C:6]1([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.71679726133
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],5.351312543500001
[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.62024177559
[H:1][C:2]([H:3])=[C:4]([O:6][C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([H:3])[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.41748481455
[H:3].[O:1]=[C:2][C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],-4.027216169090003
[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.5272616417700002
[C:4](=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4](=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-5.535026548119999
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4],6.51835069426
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:5],4.13940088922
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],2.8667999879500004
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-2.67791862345
[C:1]#[C:2][C:7]([H:8])([H:9])[H:10].[C:3]([H:4])[O:5][H:6]>>[C:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.29131117594
[H:1][C:2]([C:3])([H:11])[C:12](/[C:9](=[C:8]/[C:4]([H:5])([H:6])[H:7])[H:10])([H:13])[H:14]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8][C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-4.21368319738
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14],-5.41519320924
[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[H:12],3.2784936739
[O:1]=[C:2][C:3]([H:4])=[C:5]1[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-0.1186993577599999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],-3.12892981139
